US04728645
5-(p-tert-Butylaminocarbonylphenyl)imidazo[1,5-a]pyridine
To a slurry of 0.4 g of 5-(p-carboxyphenyl)imidazo[1,5-a]pyridine in 40 ml of methylene chloride under nitrogen at room temperature, is added 30 μl of N,N-dimethylformamide followed by 0.16 ml of oxalyl chloride. The reaction mixture is stirred until gas evolution is complete and 0.46 ml of tert-butylamine is added dropwise. Stirring is discontinued after 90 min and 10 ml of saturated sodium bicarbonate solution is added. The organic layer is separated, dried over sodium sulfate and evaporated to yield the title compound, m.p. 128°-131°.

reactant | 5-(p-carboxyphenyl)imidazo[1,5-a]pyridine | 0.4 g | C(=O)(O)C1=CC=C(C=C1)C1=CC=CC=2N1C=NC2 | C14H10N2O2
reactant | oxalyl chloride | 0.16 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butylamine | 0.46 ml | C(C)(C)(C)N | C4H11N
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 30 μl | CN(C=O)C | C3H7NO
product | 5-(p-tert-Butylaminocarbonylphenyl)imidazo[1,5-a]pyridine | C(C)(C)(C)NC(=O)C1=CC=C(C=C1)C1=CC=CC=2N1C=NC2 | C18H19N3O
